US05364917
Synthesis of 3-trifluorovinyloxy-N-(4-trifluorovinyloxyphenyl)phthalimide
3-(2-Bromotetrafluoroethoxy)-N-(4-(2-bromotetrafluoroethoxy)phenyl)phthalimide Into a 250 ml round bottomed flask fitted with a mechanical stirrer and a Dean-Stark trap is placed 4-(2-bromotetrafluoroethoxy)aniline (3.4 g, 0.0118 mole) in 40 ml of N-methylpyrrolidinone (NMP). In a separate flask, 3-(2-bromotetrafluoroethoxy)phthalic anhydride (3.0 g, 0.00874 mole) is dissolved in 20 ml of NMP and is added slowly drop wise over 15 minutes to the stirring solution of 4-(2-bromotetrafluoroethoxy)aniline in NMP. The mixture is stirred for 30 minutes at room temperature, after which m-xylene (6 ml) is added and the suspension is heated to 40° C. After heating at 40° C. for 1 hour the is heated to reflux (181° C.) and is refluxed for 6.5 hours to remove water azeotropically. Upon cooling the solvent is removed by evaporation under vacuum and the solid precipitate is recrystallized from dichloromethane/hexane solution (2:1) to provide the product as a light yellow crystalline solid (4.37 g, 81.5 percent yield) with a melting point of 172°-172.5° C.

reactant | 3-(2-Bromotetrafluoroethoxy)-N-(4-(2-bromotetrafluoroethoxy)phenyl)phthalimide | BrC(C(OC1=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)OC(C(Br)(F)F)(F)F)=CC=C1)(F)F)(F)F | C18H7Br2F8NO4
reactant | 4-(2-bromotetrafluoroethoxy)aniline | 0.0118 mole, 3.4 g | BrC(C(OC1=CC=C(N)C=C1)(F)F)(F)F | C8H6BrF4NO
reactant | 3-(2-bromotetrafluoroethoxy)phthalic anhydride | 0.00874 mole, 3.0 g | BrC(C(OC1=C2C(C(=O)OC2=O)=CC=C1)(F)F)(F)F | C10H3BrF4O4
reactant | m-xylene | 6 ml | C1(=CC(=CC=C1)C)C | C8H10
solvent | N-methylpyrrolidinone | 40 ml | CN1C(CCC1)=O | C5H9NO
solvent | NMP | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 3-trifluorovinyloxy-N-(4-trifluorovinyloxyphenyl)phthalimide | 4.37 g, 81.5 percent yield | FC(=C(F)F)OC1=C2C(C(=O)N(C2=O)C2=CC=C(C=C2)OC(=C(F)F)F)=CC=C1 | C18H7F6NO4
